US04703054
(1) To an ice-cold stirred solution of 2,2-dimethyl-4-imidazolidinone (7 g) and potassium carbonate (12.8 g) in water (80 ml), bromoacetyl bromide (5.4 ml) was added dropwise. The reaction mixture was stirred at the same temperature for 1 hour, then at room temperature for 2 hours. The obtained suspension was extracted three times with ethyl acetate and the organic phase was washed with 3% hydrochloric acid, dried and evaporated under reduced pressure to give a residue which was crystallized from xylene to afford 1-(2-bromoacetyl)-2,2-dimethyl-4-imidazolidinone as a white crystalline powder, m.p. 137°-138° C.

reactant | 2,2-dimethyl-4-imidazolidinone | 7 g | CC1(NCC(N1)=O)C | C5H10N2O
reactant | potassium carbonate | 12.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetyl bromide | 5.4 ml | BrCC(=O)Br | C2H2Br2O
solvent | water | 80 ml | O | H2O
product | 1-(2-bromoacetyl)-2,2-dimethyl-4-imidazolidinone | BrCC(=O)N1C(NC(C1)=O)(C)C | C7H11BrN2O2
